US06518264B2
1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one, form B isomer, may be prepared by carrying out the operation as described in Example 40, starting with 8.7 cm3 of oxalyl chloride, 350 cm3 of dichloromethane, 14.2 cm3 of dimethyl sulfoxide, 29.0 g of 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-ole, form B isomer, and 43 cm3 of triethylamine. The crude product is chromatographed on a silica gel column (particle size 0.06-0.200 mm, diameter 4 cm, height 40 cm), eluting with dichloromethane and collecting 250 cm3 fractions. Fractions 7 to 25 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 15.5 g of 1-{(R*)-(4-[chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one, form B isomer, are obtained in the form of an orange-colored oil.

reactant | 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one | ClC1=CC=C(C=C1)[C@H](N1CC(C1)=O)C1=CC=C(C=C1)C(=O)OC | C18H16ClNO3
reactant | oxalyl chloride | 8.7 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 350 cm3 | ClCCl | CH2Cl2
reactant | dimethyl sulfoxide | 14.2 cm3 | CS(=O)C | C2H6OS
reactant | triethylamine | 43 cm3 | C(C)N(CC)CC | C6H15N
product | (R*)-(4-[chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one | 15.5 g | ClC1=C(C=CC=C1)[C@]1(CC=C(C=C1)CN1CC(C1)=O)C(=O)OC | C18H18ClNO3
